US20010008893A1
1-(3-Methyl-4-benzyloxynaphthoxy)-3-[4-(2-fluorophenyl)-1-piperazinyl] propan-2-ol hydrochloride
Using 5.3 g (0.02 mol) of 4-benzyloxy-3-methylnaphthol, 2.8 g (0.02 mol) of anhydrous potassium carbonate, 9.3 g (0.10 mol) of chloromethyloxirane, 4.3 g (0.02 mol) of 1-(2-fluorophenyl)piperazine hydrochloride and 2.0 g (0.02 mol) of triethylamine, reaction was carried out as in Example 1-A to give 6.2 g of white crystals, m.p. 218-220°C. (decomp.).

reactant | 4-benzyloxy-3-methylnaphthol | 0.02 mol, 5.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C2=CC=CC=C12)O)C | C18H16O2
reactant | potassium carbonate | 0.02 mol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyloxirane | 0.10 mol, 9.3 g | ClCC1OC1 | C3H5ClO
reactant | 1-(2-fluorophenyl)piperazine hydrochloride | 0.02 mol, 4.3 g | Cl.FC1=C(C=CC=C1)N1CCNCC1
reactant | triethylamine | 0.02 mol, 2.0 g | C(C)N(CC)CC | C6H15N
product | 1-(3-Methyl-4-benzyloxynaphthoxy)-3-[4-(2-fluorophenyl)-1-piperazinyl] propan-2-ol hydrochloride | 6.2 g | Cl.CC=1C=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)OCC(CN1CCN(CC1)C1=C(C=CC=C1)F)O | InChI=1S/C31H33FN2O3.ClH/c1-23-19-30(26-11-5-6-12-27(26)31(23)37-21-24-9-3-2-4-10-24)36-22-25(35)20-33-15-17-34(18-16-33)29-14-8-7-13-28(29)32;/h2-14,19,25,35H,15-18,20-22H2,1H3;1H
